US07723381B2
1.3 4-(1-allyloxycarbonylaminocyclopropyl)benzoic acid
A solution of 1.46 g of tert-butyl 4-(1-allyloxycarbonylaminocyclopropyl)benzoate in 10 mL of acetonitrile was combined with 1 g of montmorillonite and refluxed for 3 hours. Then more montmorillonite was added and the mixture was boiled for 4 hours. The suspension was filtered hot, the inorganic material was extracted 3× with hot acetonitrile and filtered off, and the acetonitrile solutions were combined and evaporated down. Residue: 0.8 g of crystals.

reactant | tert-butyl 4-(1-allyloxycarbonylaminocyclopropyl)benzoate | 1.46 g | C(C=C)OC(=O)NC1(CC1)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C18H23NO4
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(1-allyloxycarbonylaminocyclopropyl)benzoic acid | C(C=C)OC(=O)NC1(CC1)C1=CC=C(C(=O)O)C=C1 | C14H15NO4
